US04091115
50 ml of 18 N sulfuric acid were added over 30 minutes to a refluxing mixture of 50 g of 7-methylamino-5-hydroxy-6,7,8,9-tetrahydro [5H] benzocycloheptene and 500 ml of dioxane and the mixture was refluxed for an hour and then was cooled. The pH was adjusted to 10 with concentrated ammonium hydroxide solution and the mixture was saturated with ammonium sulfate and was extracted with ethyl acetate. The organic phase was washed with aqueous sodium chloride solution, dried and evaporated to dryness and the residue was chromatographed over silica gel. Elution with a 95-5-2 methylene chloride-methanol-triethylamine mixture yielded 22.8 g of 7-methylamino-6,7-dihydro [5H] benzocycloheptene.

reactant | sulfuric acid | 18 N, 50 ml | S(O)(O)(=O)=O | H2O4S
reactant | 7-methylamino-5-hydroxy-6,7,8,9-tetrahydro [5H] benzocycloheptene | 50 g | CNC1CC(C2=C(CC1)C=CC=C2)O | C12H17NO
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 7-methylamino-6,7-dihydro [5H] benzocycloheptene | 22.8 g | CNC1CCC2=C(C=C1)C=CC=C2 | C12H15N
